US06949648B2
3-Phenyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
Following the procedures described in Reference Example 2-5 and Example 2-12, the title compound was prepared from o-iodobenzoic acid and 3-phenyl-1-(2-pyridinyl)-1H-pyrazol-5-ylamine which was previously prepared from benzoylacetonitrile and 2-hydrazinopyridine following the method described in Reference Example 2-72 (58% yield).

reactant | o-iodobenzoic acid | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 3-phenyl-1-(2-pyridinyl)-1H-pyrazol-5-ylamine | C1(=CC=CC=C1)C1=NN(C(=C1)N)C1=NC=CC=C1 | C14H12N4
reactant | benzoylacetonitrile | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | 2-hydrazinopyridine | N(N)C1=NC=CC=C1 | C5H7N3
product | 3-Phenyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | C1(=CC=CC=C1)C1=NN(C=2NC3=CC=CC=C3C(C21)=O)C2=NC=CC=C2 | C21H14N4O
